US07687490B2
4-(3-Cyanoazetidin-1-yl)carbonyl-5-((Z)-2-tritylthioethen-1-yl)thiazole
In the same manner as in step c) in Example 3, 716 mg of the title compound was prepared from 859 mg of 4-carboxy-5-((Z)-2-tritylthioethen-1-yl)thiazole and 237 mg of 3-cyanoazetidine hydrochloride.

reactant | 4-carboxy-5-((Z)-2-tritylthioethen-1-yl)thiazole | 859 mg | C(=O)(O)C=1N=CSC1\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H19NO2S2
reactant | 3-cyanoazetidine hydrochloride | 237 mg | Cl.C(#N)C1CNC1
product | 4-(3-Cyanoazetidin-1-yl)carbonyl-5-((Z)-2-tritylthioethen-1-yl)thiazole | 716 mg | C(#N)C1CN(C1)C(=O)C=1N=CSC1\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H23N3OS2
